US07642031B2
34.7 parts by weight of behenyl acrylate, 3.87 parts by weight of methyl acrylate (30 mol % of the total quantity of monomers) and 0.72 parts by weight of dodecanethiol are dissolved in 80 parts by weight of toluene, 0.75 parts by weight of the radical initiator azobisisobutyronitrile (AIBN) is added, and the resulting mixture is reacted for 16 hours at 70° C. under an atmosphere of nitrogen. Subsequently, the product is precipitated in 1 liter of methanol, and is then dried, thereby yielding a methyl acrylate-behenyl acrylate copolymer (6). The weight average molecular weight, measured by GPC against polystyrene standards, is 12,000. The acid value is 58 mgKOH/g, and the melting point is 63° C.

reactant | behenyl acrylate | C(C=C)(=O)OCCCCCCCCCCCCCCCCCCCCCC | C25H48O2
reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
reactant | dodecanethiol | C(CCCCCCCCCCC)S | C12H26S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | methyl acrylate behenyl acrylate | C(C=C)(=O)OC.C(C=C)(=O)OCCCCCCCCCCCCCCCCCCCCCC | InChI=1S/C25H48O2.C4H6O2/c1-3-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-22-23-24-27-25(26)4-2;1-3-4(5)6-2/h4H,2-3,5-24H2,1H3;3H,1H2,2H3
